US06706663B2
Preparation of 3-[3-(3-Hydroxy-2-thienyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil
To a mixture of 3-[3-(3-methoxy-2-thienyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil(0.500 g, 1.14 mmol) and methylene chloride at −5° C. is added boron trichloride (1M in methylene chloride, 2.30 ml, 2.3 mmol) via syringe. The resultant mixture is stirred two hours at −5° C., warmed to room temperature, stirred overnight and poured into cold 10% hydrochloric acid. The mixture is extracted with methylene chloride. The organic layer is washed with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to an oil. The oil is crystallized in ether to afford the title compound as pale yellow-green crystals (0.350 g, 72.2%) which is characterized by NMR spectral analysis.

reactant | 3-[3-(3-methoxy-2-thienyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil | 1.14 mmol, 0.500 g | COC1=C(SC=C1)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C18H12F3N3O3S2
reactant | boron trichloride | 2.3 mmol, 1M, 2.30 ml | B(Cl)(Cl)Cl | BCl3
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-[3-(3-Hydroxy-2-thienyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil | 0.350 g, 72.2% | OC1=C(SC=C1)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C17H10F3N3O3S2
